US06916819B2
To a stirring solution of ethyl vinyl ether (340 mL, 3.55 mol) in diethyl ether (200 mL), cooled in an ice bath, is added dropwise a solution of malonyl dichloride (69 mL, 0.71 mol) in ether (20 mL). Stirring is continued at 0° C. for 2 h, then a solution of triethylamine (196 mL) and ethanol (350 mL) in ether (210 mL) is added with cooling. More ether is added to further precipitate triethylamine hydrochloride, the mixture is then filtered, and the filtrate concentrated. The residue is taken up in ethanol (710 mL), then triethyl orthoformate (177 mL, 1.07 mol) and concentrated HCl (5 mL) is added. The mixture is stirred overnight then concentrated. To the residue is added ethanol (500 mL) and 3-Fluorophenylhydrazine hydrochloride (27.6 g, 0.17 mol). The mixture is heated at reflux for 2 h, then cooled and concentrated. Ethyl acetate is added, the mixture is washed with aqueous bicarbonate, then with water, dried (Na2SO4), concentrated, and the residue purified by silica gel chromatography. Ethanol (20 mL) and 1 N NaOH (100 mL) are added, and heated at reflux for 1 h. The mixture is cooled and washed with ethyl acetate. The aqueous layer is cooled and acidified, the solid collected by filtration, rinsed well with water and dried to give 1-(3-Fluorophenyl)-5-carboxymethylpyrazole as a gold solid. 1H NMR (CDCl3): δ 7.68 (d, J=1.8 Hz, 1H), 7.41-7.48 (m, 1H), 7.10-7.26 (m, 3H), 6.44 (d, J=2.1 Hz, 1H), 3.77 (8, 2H). LCMS: 221.2 (MH+), 219.2(MH−).

reactant | ethyl vinyl ether | 3.55 mol, 340 mL | C(=C)OCC | C4H8O
reactant | malonyl dichloride | 0.71 mol, 69 mL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | triethyl orthoformate | 1.07 mol, 177 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | HCl | 5 mL | Cl | ClH
reactant | 3-Fluorophenylhydrazine hydrochloride | 0.17 mol, 27.6 g | Cl.FC=1C=C(C=CC1)NN
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 210 mL | CCOCC | C4H10O
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | ethanol | 350 mL | C(C)O | C2H6O
solvent | triethylamine | 196 mL | C(C)N(CC)CC | C6H15N
product | 1-(3-Fluorophenyl)-5-carboxymethylpyrazole | FC=1C=C(C=CC1)N1N=CC=C1CC(=O)O | C11H9FN2O2
